US07468366B2
Synthesis of 2,3-Dimethoxy-8,9-methylenedioxy-11-(n-butyl)-11H-5,6,11-triazachrysen-12-one
A mixture of N-(6,7-Methylenedioxycinnolin-4-yl)-N-(n-butyl)-2-iodo-4,5-dimethoxybenzamide (1.0 mmol equiv.), Pd(OAc)2 (0.2 mmol equiv.), P(o-tolyl)3 (0.4 mmol equiv.), and Ag2CO3 (2.0 mmol equiv) was heated to reflux in DMF (30 mL per mmol equiv.) with stirring. The reaction mixture was allowed to cool to room temperature, diluted with CHCl3, and filtered through Celite. The sicciate was extensively washed with 10% CH3OH in CHCl3. The filtrate was concentrated in vacuo and the residue chromatographed on silica gel using chlorofomm:methanol to provide the title compound (123 mg, 0.2 mmol) in 27% yield with a reaction time 90 min; mp 299° C.; IR (KBr) 1654; 1H NMR (CDCl3) δ 1.06 (t, 3H, J=7.4), 1.56 (m, 2H), 2.13 (m, 2H), 4.09 (s, 3H), 4.17 (s, 3H), 4.49 (m, 2H), 6.26 (s, 2H), 7.62 (s, 1H), 7.85 (s, 1H), 7.87 (s, 1H), 8.65 (s, 1H); 13C NMR (CDCl3) δ 13.8, 20.2, 31.1, 48.6, 56.3, 56.6, 98.8, 102.7, 104.2, 106.5, 107.9, 119.7, 149.1, 150.1, 150.9, 151.4, 153.6, 154.2, 162.9; HRMS calcd for C22H21N3O5H, 408.1559; found 408.1543

reactant | N-(6,7-Methylenedioxycinnolin-4-yl)-N-(n-butyl)-2-iodo-4,5-dimethoxybenzamide | 1.0 mmol | C1OC=2C=C3C(=CN=NC3=CC2O1)N(C(C1=C(C=C(C(=C1)OC)OC)I)=O)CCCC | C22H22IN3O5
reactant | P(o-tolyl)3 | 0.4 mmol | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd(OAc)2 | 0.2 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,3-Dimethoxy-8,9-methylenedioxy-11-(n-butyl)-11H-5,6,11-triazachrysen-12-one | 0.2 mmol, 123 mg, 27% yield | COC1=CC=2C(N(C3=C4C=C5C(=CC4=NN=C3C2C=C1OC)OCO5)CCCC)=O | C22H21N3O5
